US07449513B2
25 parts by mass of pentafluorobenzoic acid ethyl ester and 21.6 parts by mass of NaNO2 were mixed in 200 parts by mass of DMSO, and the mixture was heated. After the mixture was stirred at 50° C. for 2 hours, it was cooled to room temperature, and 520 parts by mass of ice water was added thereto. Concentrated hydrochloric acid was added to the mixture to adjust pH to 2, and the mixture was then heated to 100° C. followed by stirring for 30 minutes. The mixture was cooled to room temperature followed by extraction with ether. Organic layers were washed with water and dried with anhydrous magnesium sulfate. The solvent was removed, and the obtained residue was washed with hexane to obtain 4-hydroxy-2,3,5,6-tetrafluorobenzoic acid ethyl ester. 200 parts by mass of the obtained 4-hydroxy-2,3,5,6-tetrafluorobenzoic acid ethyl ester was dissolved in 500 parts by mass of DMF, and an equivalent amount of NaH was gradually added thereto followed by stirring for 1 hour. 20 parts by mass of tetrabutylammonium iodide was added thereto, 180 parts by mass of 2-chloroethyl vinyl ether was then added thereto, and the thus obtained mixture was stirred at 100° C. for 10 hours. After cooling to room temperature, the reaction solution was added to 4,600 parts by mass of ice water followed by extraction with ethyl acetate. Organic layers were washed with water and dried with anhydrous magnesium sulfate. The solvent was removed, and the residue was subjected to silica gel column chromatography to obtain the objective polymeric compound. The NMR of the thus obtained polymeric compound is shown in FIG. 2.

reactant | pentafluorobenzoic acid ethyl ester | C(C)OC(C1=C(C(=C(C(=C1F)F)F)F)F)=O | C9H5F5O2
reactant | NaNO2 | N(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | CS(=O)C | C2H6OS
product | 4-hydroxy-2,3,5,6-tetrafluorobenzoic acid ethyl ester | C(C)OC(C1=C(C(=C(C(=C1F)F)O)F)F)=O | C9H6F4O3
